US09290490B2
methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-1-methylcyclohexanecarboxylate
To a solution of thiazole (0.309 mL, 4.36 mmol) in tetrahydrofuran (5 mL) was added a solution of isopropylmagnesium chloride lithium chloride complex (1.0 M in tetrahydrofuran, 3.36 mL, 4.36 mmol). After 20 minutes, the resulting solution was added to a solution of methyl 4-acetyl-1-methylcyclohexanecarboxylate (864.9 mg, 4.36 mmol) in tetrahydrofuran (10 mL) via syringe over 6 minutes. After 90 minutes, saturated aqueous ammonium chloride solution (5 mL) was added to the reaction mixture and the resulting suspension was partitioned between water (5 mL) and ethyl acetate (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chiral chromatography (methanol/supercritical CO2) to give four separate stereoisomers (peak 1, peak 2, peak 3, peak 4) of methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-1-methylcyclohexanecarboxylate. MS ESI calc'd. for C14H21NO3S [M+H]+ 284. found 284.

reactant | thiazole | 4.36 mmol, 0.309 mL | S1C=NC=C1 | C3H3NS
reactant | isopropylmagnesium chloride lithium chloride | 4.36 mmol, 1.0 M, 3.36 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | methyl 4-acetyl-1-methylcyclohexanecarboxylate | 4.36 mmol, 864.9 mg | C(C)(=O)C1CCC(CC1)(C(=O)OC)C | C11H18O3
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-1-methylcyclohexanecarboxylate | OC(C)(C=1SC=CN1)C1CCC(CC1)(C(=O)OC)C | C14H21NO3S
